US09023840B2
Step 1: methyl 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoate
2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (0.11 g, 0.18 mmol) was added to a mixture of {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride (0.86 g, 1.8 mmol), methyl 4-bromo-3-fluorobenzoate (0.50 g, 2.1 mmol, Combi-Blocks: Cat. #CA-4107), and cesium carbonate (1.7 g, 5.4 mmol) in toluene (25.0 mL) under N2, followed by palladium acetate (0.040 g, 0.18 mmol). The reaction mixture was stirred at 120° C. for 5 hours. The reaction mixture was diluted with ethyl acetate, filtered, and concentrated under reduced pressure to afford the desired crude product (1.06 g) which was directly used in next step reaction without further purification. LCMS (M+H)+: m/z=562.3.

reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | 1.8 mmol, 0.86 g | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | methyl 4-bromo-3-fluorobenzoate | 2.1 mmol, 0.50 g | BrC1=C(C=C(C(=O)OC)C=C1)F | C8H6BrFO2
reactant | cesium carbonate | 5.4 mmol, 1.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 25.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.18 mmol, 0.040 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.18 mmol, 0.11 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | methyl 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoate | 1.06 g | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)OC)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C28H32FN7O3Si
